US04709081
28.29 g. (0.3 mole) of phenol, 11.2 g. (0.2 mole) of potassium hydroxide and 20 cm3. of xylene are weighed together. The water is azeotropically distilled with stirring and boiling then the xylene is also distilled. To the reaction mixture 1.0 g. of copper(I) chloride and 1.0 g. of activated copper are added and in oil bath of 180° C. 22.91 g. (0.1 mole) 3-bromobenzyl acetate are dropped during 25 minutes while stirring. The reaction mixture is stirred at the same temperature for an additional two hours. After cooling 50 cm3. of 15% sodium chloride solution are added to the reaction mixture, then the reaction mixture is filtered off. The filtrate is extracted twice with 30 cm3 of toluene. The united organic phase is washed with a mixture of 30 cm3. of 15% sodium chloride solution and 10 cm3. of 40% sodium hydroxide solution. The organic phase is evaporated and the residue distilled in vacuo. 17.2 g. of 3-phenoxybenzyl acetate are obtained. Boiling point 142°-145° C./53.2 Pa, nD20 : 1.5621, yield 71%.

reactant | phenol | 0.3 mole | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | 0.2 mole | [OH-].[K+]
reactant | 3-bromobenzyl acetate | 0.1 mole | C(C)(=O)OCC1=CC(=CC=C1)Br | C9H9BrO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 3-phenoxybenzyl acetate | yield 71% | C(C)(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1 | C15H14O3
